US06090836
Step B: Preparation of Methyl-3,5-dimethoxy-4-(3-(3-(Ethyl)-7-(propyl)-6-benz-[4,5]-isoxazoloxy)propyloxy)phenyl acetate
The procedure from Example 76 Step C was followed using methyl-3,5-dimethoxy-4-hydroxyphenyl acetate (108 mg) and 3-bromo-1-(3-(Ethyl)-7-(propyl)-6-benz-[4,5]-isoxazoloxy)propane (156 mg) to afford a colorless oil (88 mg). NMR (CDCl3); δ 7.41 (d,2H), 6.99 (d,2H), 6.45 (s,2H), 3.76 (s,6H), 3.71 (s,3H), 3.55 (s,3H), 1.43 (t,3H), 0.92 (t,3H).

reactant | methyl-3,5-dimethoxy-4-hydroxyphenyl acetate | 108 mg | C(C)(=O)OC1=C(C(=C(C(=C1)OC)O)OC)C | C11H14O5
reactant | 3-bromo-1-(3-(Ethyl)-7-(propyl)-6-benz-[4,5]-isoxazoloxy)propane | 156 mg | BrCCCOC=1C=CC=2C(=NOC2C1CCC)CC | C15H20BrNO2
product | Methyl-3,5-dimethoxy-4-(3-(3-(Ethyl)-7-(propyl)-6-benz-[4,5]-isoxazoloxy)propyloxy)phenyl acetate | 88 mg | C(C)(=O)OC1=C(C(=C(C(=C1)OC)OCCCOC=1C=CC=2C(=NOC2C1CCC)CC)OC)C | C26H33NO7
